US06826033B2
To a suspension of methyl 4-[[[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenyl]-amino]carbonyl]benzoate (19.3 mg) in methanol (1.0 ml) was added 1N sodium hydroxide solution (40.3 μl) and the suspension was refluxed for 10 hours. An additional portion of 1N sodium hydroxide solution (40.3 μl) was added and the mixture was refluxed for 3 hours. After cooling to room temperature, the solvent was removed by evaporation to give sodium 4-[[[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenyl]amino]carbonyl]benzoate (20.6 mg) as a white solid.

reactant | methyl 4-[[[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenyl]-amino]carbonyl]benzoate | 19.3 mg | OC[C@H](CC1=CC=C(C=C1)NC(=O)C1=CC=C(C(=O)OC)C=C1)NC[C@@H](COC1=CC=CC=C1)O | C27H30N2O6
reactant | sodium hydroxide | 1N, 40.3 μl | [OH-].[Na+]
reactant | sodium hydroxide | 1N, 40.3 μl | [OH-].[Na+]
solvent | methanol | 1.0 ml | CO | CH4O
product | sodium 4-[[[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenyl]amino]carbonyl]benzoate | 20.6 mg | OC[C@H](CC1=CC=C(C=C1)NC(=O)C1=CC=C(C(=O)[O-])C=C1)NC[C@@H](COC1=CC=CC=C1)O.[Na+] | InChI=1S/C26H28N2O6.Na/c29-16-22(27-15-23(30)17-34-24-4-2-1-3-5-24)14-18-6-12-21(13-7-18)28-25(31)19-8-10-20(11-9-19)26(32)33;/h1-13,22-23,27,29-30H,14-17H2,(H,28,31)(H,32,33);/q;+1/p-1/t22-,23-;/m0./s1
